US09085570B2
A mixture of dimethyl malonate (42.6 g, 322.73 mmol, 4.00 equiv) and potassium carbonate (22.3 g, 161.59 mmol, 2.00 equiv) in N,N-dimethylformamide (200 mL) was stirred for 30 min at 50° C. A solution of 1-bromo-4-(bromomethyl)benzene (20 g, 80.65 mmol, 1.00 equiv) in N,N-dimethylformamide (80 mL) was then added dropwise with stirring to the reaction mixture. The resulting solution was stirred at 50° C. for 2 h. Water (100 mL) was added and the mixture was extracted with 1×400 mL of ethyl acetate. The organic layer was washed with 2×100 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 22 g (91%) of dimethyl 2-(4-bromobenzyl)malonate as a white solid. LC-MS: (ES, m/z): 301 [M+H]+, 126, 120.

reactant | dimethyl malonate | 322.73 mmol, 42.6 g, 4.00 equiv | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | potassium carbonate | 161.59 mmol, 22.3 g, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-(bromomethyl)benzene | 80.65 mmol, 20 g, 1.00 equiv | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | dimethyl 2-(4-bromobenzyl)malonate | 22 g, 91% | BrC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1 | C12H13BrO4
